US20010027196A1
2-Amino-6-methylsulfanyl-4-(3,4,5-trimethoxy-phenyl)-pyridine-3,5-dicarbonitrile
From 3,4,5-trimethoxybenzaldehyde, malonitrile, cyanothioacetamide and piperidine in EtOH. Then treatment with methyl iodide and sodium methylate in methanol. EI-MS m/e (%): 356 (M+, 100).

reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | malonitrile | C(C(O)CC#N)#N | C4H4N2O
reactant | cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | methyl iodide | CI | CH3I
reactant | sodium methylate | C[O-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | methanol | CO | CH4O
product | 2-Amino-6-methylsulfanyl-4-(3,4,5-trimethoxy-phenyl)-pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC(=C(C(=C1)OC)OC)OC)C#N)SC | C17H16N4O3S
